US07767660B2
Step 1: benzyl 4-(aminosulfonyl)butanoate
Cs2CO3 (0.51 eq) was added to a solution of 4-(aminosulfonyl)butanoic acid (1 M) in DMF. After 1 h, benzyl bromide (1 eq) was introduced and the reaction left to stir overnight before diluting with DCM and filtering. The filtered liquor was concentrated in vacuo, the residue taken up in DCM and washed with saturated aqueous NaHCO3, water and brine, before being dried over Na2SO4, filtered and concentrated in vacuo. Trituration of the residue with Et2O afforded the title compound as a white solid (27%). (ES+) m/z 280 (M+Na)+

reactant | Cs2CO3 | 0.51 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(aminosulfonyl)butanoic acid | 1 M | NS(=O)(=O)CCCC(=O)O | C4H9NO4S
reactant | benzyl bromide | 1 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | benzyl 4-(aminosulfonyl)butanoate | 27% | NS(=O)(=O)CCCC(=O)OCC1=CC=CC=C1 | C11H15NO4S
